US07842688B2
c) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[4-(toluene-4-sulphonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy]piperidine-1-carboxylate
A solution of 1.04 g tert-butyl 3-{3-[(2-fluorophenyl)(toluene-4-sulphonyl)amino]-2(R,S)-hydroxypropoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.60 g of potassium tert-butoxide in 30 ml of tetrahydrofuran is stirred at reflux over 30 minutes. The reaction mixture is cooled to room temperature, diluted with 1N HCl and extracted with ethyl acetate (2×). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.30 (1:2 EtOAc-heptane); Rt=6.32.

reactant | tert-butyl 3-{3-[(2-fluorophenyl)(toluene-4-sulphonyl)amino]-2(R,S)-hydroxypropoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 1.04 g | FC1=C(C=CC=C1)N(CC(COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C)O)S(=O)(=O)C1=CC=C(C=C1)C | C43H53FN2O9S
reactant | potassium tert-butoxide | 0.60 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | HCl | 1N | Cl | ClH
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[4-(toluene-4-sulphonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-2(R,S)-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2OC3=C(N(C2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC=C3)C=CC=C1 | C43H52N2O9S
